US08198476B2
Preparation of cycloiridate(III) of (di-t-butylphosphino)(diphenylphosphino)-m-xylene (Catalyst E)
Diphosphine (di-t-butylphosphino)(diphenylphosphino)-m-xylene (0.1 g, 0.23 mmol), [Ir2Cl2(cyclooctene)4] (0.1 g, 0.12 mmol) in 2-methoxyethanol (8 cm3) were heated under reflux for 2 days. The solvent was then removed under reduced pressure to give a brown solid (0.13 g, 0.2 mmol, 86%) of structure:

reactant | Diphosphine (di-t-butylphosphino)(diphenylphosphino)-m-xylene | 0.23 mmol, 0.1 g | C(C)(C)(C)P(C(C)(C)C)C1=C(C(=C(C=C1)C)P(C1=CC=CC=C1)C1=CC=CC=C1)C.P.P
solvent | 2-methoxyethanol | 8 cm3 | COCCO | C3H8O2
product | (di-t-butylphosphino)(diphenylphosphino)-m-xylene | 0.2 mmol, 0.13 g, 86% | C(C)(C)(C)P(C(C)(C)C)C1=C(C(=C(C=C1)C)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C28H36P2
